US07253286B2
N1-(2-Fluoroethyl)-5-[(2-{[(1-tert-butyloxycarbonyl-4-piperidyl)carbonyl]amino}-4-pyridyl)oxy]-1H-1-indolecarboxamide
N1-(2-Fluoroethyl)-5-[(2-amino-4-pyridyl)oxy]-1H-1-indolecarboxamide (500 mg), 1-tert-butyloxycarbonylpiperidine-4-carboxylic acid (440 mg), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (Bop Reagent) (840 mg), triethylamine (0.44 ml) and dimethylformamide (10 ml) were stirred at room temperature for 17 hours. Water was added, extraction was performed with ethyl acetate, NH type silica gel was added to the extract, the solvent was distilled off under reduced pressure and the reaction product was adsorbed onto the silica gel. The silica gel was charged into a dry column packed with NH type silica gel, and column purification was performed (hexane:ethyl acetate=1:1). The solvent was distilled off under reduced pressure to obtain 160 mg of the target substance as a white powder.

reactant | N1-(2-Fluoroethyl)-5-[(2-amino-4-pyridyl)oxy]-1H-1-indolecarboxamide | 500 mg | FCCNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C16H15FN4O2
reactant | 1-tert-butyloxycarbonylpiperidine-4-carboxylic acid | 440 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 840 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.44 ml | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N1-(2-Fluoroethyl)-5-[(2-{[(1-tert-butyloxycarbonyl-4-piperidyl)carbonyl]amino}-4-pyridyl)oxy]-1H-1-indolecarboxamide | FCCNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C27H32FN5O5
